US07968587B2
(R)-2-Amino-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile dihydrochloride
Stir a suspension of (R)-(7-cyano-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester (1.16 g, 3.19 mmol) in 4M HCl in dioxane (20 mL) for 2 h at room temperature, then concentrate in vacuo. Dry the residue under vacuum overnight at 40° C. MS (m/z): 295 (M+1).

reactant | (R)-(7-cyano-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid tert-butyl ester | 3.19 mmol, 1.16 g | C(C)(C)(C)OC(N[C@@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NSC=C2)C1)=O | C21H22N4O2S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-4-isothiazol-3-ylmethyl-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile dihydrochloride | Cl.Cl.N[C@@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NSC=C2)C1 | InChI=1S/C16H14N4S.2ClH/c17-8-10-1-2-15-13(5-10)14-6-11(18)7-16(14)20(15)9-12-3-4-21-19-12;;/h1-5,11H,6-7,9,18H2;2*1H/t11-;;/m1../s1
